US05763458
4-Amino-5-chloro-2-methoxybenzoic acid (10.1 g, 50 mmol) was dissolved in DMF (50 mL). Carbonyldiimidazole (8.9 g, 55 mmol) was added to the solution and the mixture was stirred for 15 minutes. Triethylamine (7 mL, 5.1 g, 50 mmol) and N,O-dimethylhydroxylamine hydrochloride (6.3 g, 65 mmol) were added and the mixture was stirred for 12 hours. The mixture was then diluted with water and extracted into ethyl acetate. The ethyl acetate extract was washed with 5% HCl, with water, and then with brine. The extract was dried over sodium sulfate and then evaporated. Crystallization from ethyl acetate gave N-methoxy-N-methyl-4-amino-5-chloro-2-methoxybenzamide (10 g, 41 mmol), m.p. 134°-135° C.

reactant | 4-Amino-5-chloro-2-methoxybenzoic acid | 50 mmol, 10.1 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | Carbonyldiimidazole | 55 mmol, 8.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Triethylamine | 50 mmol, 7 mL, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 65 mmol, 6.3 g | Cl.CNOC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-methoxy-N-methyl-4-amino-5-chloro-2-methoxybenzamide | 41 mmol, 10 g | CON(C(C1=C(C=C(C(=C1)Cl)N)OC)=O)C | C10H13ClN2O3
